US05140031
A. N-Cyano-N'-4-nitrophenylthiourea
The suspension of monosodium cyanamide (6.4 g, 100 mmol) in absolute ethanol (170 mL) was slowly treated with (4-nitrophenyl)isothiocyanate (12.5 mL, 104.5 mmol). The reaction was allowed to stir at room temperature for 1 hour and then heated at 75° C. for 4 hours. The reaction was cooled to room temperature and the colorless solid was filtered and washed with ethanol to give the title A compound (13.6 g), m.p. >250° C.

reactant | monosodium cyanamide | 100 mmol, 6.4 g | N#CN.[Na]
reactant | (4-nitrophenyl)isothiocyanate | 104.5 mmol, 12.5 mL | [N+](=O)([O-])C1=CC=C(C=C1)N=C=S | C7H4N2O2S
solvent | ethanol | 170 mL | C(C)O | C2H6O
product | N-Cyano-N'-4-nitrophenylthiourea | 13.6 g | C(#N)NC(=S)NC1=CC=C(C=C1)[N+](=O)[O-] | C8H6N4O2S
